Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Throat discomfort
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ PMHx GERD, esophageal spasm, and anxiety presenting with 
throat andchest burning. Patient has long history of issues with 
GERD and is followed by GI as an outpatient. She said that she 
intermittently has issues at home and yesterday had quite severe 
symptoms which seemed to pop up after she experienced the 
emotional stressor of her washer leaking just after being 
installed in her home. She tried nexium/zantac with incomplete 
relief of her symptoms. She was also being bothered by a bit of 
a cough and runny nose though says that these symptoms have been 
present for quite some time. She denied any frank chest pain, 
SOB, abdominal pain, n/v/d, constipation, dysuria, or frequency. 
 
 
In the ED, initial VS were: 101.3 80 130/54 12 98% RA  
Labs notable for: Na 131, trop neg x2, LFTs wnl  
UA: Hazy, 30 prot, 40 ket, 7 RBC, few bacteria  
 
Imaging showed:   
CXR: PA and lateral views of the chest provided. The lungs are 
hyperinflated with biapical pleuroparenchymal scarring again 
noted. No focal consolidation, large effusion or pneumothorax is 
seen. No signs of pneumothorax or pneumomediastinum. The 
cardiomediastinal silhouette is stable. Bony structures are 
intact. No free air below the right hemidiaphragm.  
 
CT Torso:  
1. No evidence of pancreatitis. Please note that CT findings of 
pancreatitis may lack clinical findings by 48 hours.  
2. No evidence of small-bowel obstruction colitis or 
diverticulitis.  
3. Large quantity of gas and stool throughout the bowel.  
 
Patient received:  
___ 19:56 PO Aluminum-Magnesium Hydrox.-Simethicone 30 mL 
 
___ 19:56 PO Lidocaine Viscous 2% 10 mL  
Transfer VS were: 99.3 93 143/55 16 99% RA  

On arrival to the floor, patient reports that her reflux 
symptoms have resolved but that she is having significant dry 
mouth. She is otherwise well and without any acute complaint.  

10 point ROS reviewed and negative except as per HPI  
 
Past Medical History:
1. Coronary vasospams - ___ the pt was admitted to ___ 
___ due to CP unrelieved by NTG and was found to 
have TWIs ___. Her first troponin and CK were normal 
but the second troponin was elevated. Due to weather conditions, 
pt was transferred to ___ (Dr. ___ ___ rather 
than BI, where she underwent diagnostic cath. The angiogram 
revealed focal ___ LAD dx (pt has a copy of the CD) which 
responded to NTG. Subsequent intra- vascular US revealed no sig. 
plaque in quite a nl appearing segment where the angiographic 
stenosis had been, c/w vasospasm.  
2. GERD  
3. Depression.  

 
Social History:
___
Family History:
M: Breast CA and silent MI  
F: Parkinsons  

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
=========================
VS: 99.3 138/64 89 19 99% Ra  
GENERAL: Pleasant elderly F in NAD  
HEENT: NCAT, dry mucous membranes  
NECK: Supple, neck veins flat sitting upright  
HEART: RRR, no m/r/g  
LUNGS: CTAB anteriorly  
ABDOMEN: Soft, NT/ND, BS+  
EXTREMITIES: WWP, no c/c/e  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

PHYSICAL EXAM ON DISCHARGE:
=========================
VS: 99.6 PO 132 / 54 90 12 98 RA   
GENERAL: Pleasant elderly F in NAD, runny nose  
HEENT: NCAT, dry mucous membranes 
NECK: Supple, neck veins flat sitting upright  
HEART: RRR, no m/r/g  
LUNGS: CTAB anteriorly  
ABDOMEN: Soft, NT/ND, BS+ 
EXTREMITIES: WWP, no c/c/e
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

 
Pertinent Results:
LABS ON ADMISSION:
================
___ 06:42PM BLOOD WBC-6.0# RBC-3.77* Hgb-11.2 Hct-33.6* 
MCV-89 MCH-29.7 MCHC-33.3 RDW-13.1 RDWSD-42.5 Plt ___
___ 06:42PM BLOOD Neuts-89.7* Lymphs-4.8* Monos-5.0 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-5.39# AbsLymp-0.29* 
AbsMono-0.30 AbsEos-0.00* AbsBaso-0.01
___ 06:42PM BLOOD Glucose-150* UreaN-14 Creat-0.7 Na-131* 
K-4.5 Cl-92* HCO3-23 AnGap-16
___ 09:35PM BLOOD ALT-18 AST-33 AlkPhos-64 TotBili-0.5
___ 09:35PM BLOOD Lipase-18
___ 06:42PM BLOOD cTropnT-<0.01
___ 09:35PM BLOOD cTropnT-<0.01
___ 09:35PM BLOOD Albumin-3.9

LABS ON DISCHARGE:
================
___ 08:35AM BLOOD WBC-6.5 RBC-3.43* Hgb-10.2* Hct-30.4* 
MCV-89 MCH-29.7 MCHC-33.6 RDW-13.3 RDWSD-43.5 Plt ___
___ 08:35AM BLOOD Glucose-95 UreaN-13 Creat-0.6 Na-131* 
K-4.0 Cl-92* HCO3-25 AnGap-14
___ 08:35AM BLOOD Calcium-8.6 Phos-2.9 Mg-1.9

MICRO:
======

IMAGING:
=======
CXR:
PA and lateral views of the chest provided.  The lungs are 
hyperinflated with biapical pleuroparenchymal scarring again 
noted.  No focal consolidation, large effusion or pneumothorax 
is seen.  No signs of pneumothorax or pneumomediastinum.  The 
cardiomediastinal silhouette is stable.  Bony structures are 
intact.  No free air below the right hemidiaphragm.

CT Abdomen and pelvis:
1. No evidence of pancreatitis.  Please note that CT findings of 
pancreatitis may lack clinical findings by 48 hours.
2. No evidence of small-bowel obstruction, colitis or 
diverticulitis.
3. Large quantity of gas and stool throughout the bowel.
 
Brief Hospital Course:
Mrs. ___ is a ___ yo female with past medical history of 
chronic watery rhinorrea, esophagitis, and GERD, who presented 
with throat pain in the setting of fever, worsening runny nose, 
and cough, suggestive of viral upper respiratory infection.

ACUTE ISSUES:
=============
#Throat pain:
Initially, the patient reported chest pain, which raised concern 
for cardiac pain or severe esophagitis. Trops were negative and 
ECG showed no ischemic changed. Upon further questioning, she 
clarified that she had no chest pain but rather throat pain. Her 
symptoms were likely due to upper respiratory viral infection. 
Per review of records, she saw ENT on ___ for throat chronic 
rhinorrhea. At that time, an endoscopy was performed and showed 
normal hypopharynx and larynx, mild reflux changes, and no 
glottic abnormality. She was able to tolerate PO intake and her
throat pain has improved. She had symptomatic relief with 
lozenges PRN.

#Fevers: She was febrile in ED to 101.3 with cough and sore 
throat. Exam was benign and there was no leukocytosis on labs. 
UA bland. CXR with biapical scarring though no definitive 
consolidation. CT chest without any findings which would explain 
fevers. Her symptoms are likely due to upper respiratory viral 
infection. She received conservative treatment.

#GERD: Patient with long-standing and significant issues with 
GERD. Initially her symptoms were thought to be due to severe 
GERD, though patient clarified that had throat pain and not 
chest/epigastric pain. She was treated with BID PPI and 
ranitidine.

#Hyponatremia: Likely in the setting of poor PO intake. 
Encouraged PO intake.

CHRONIC ISSUES:
===============
#Esophageal spasm
#Atypical chest pain: Continued verapamil.

#Anxiety: Continued PRN ativan.

#Allergic rhinitis: Fluticasone while in house as home 
azelastine not on formulary.

***TRANSITIONAL ISSUES:***
- Ensure resolution of symptoms
- Continue PPI BID, make sure patient takes it 30 minutes before 
her meals
- Consider follow-up with ENT in case her symptoms persist
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. azelastine 0.15 % (205.5 mcg) nasal BID 
2. esomeprazole magnesium 40 mg oral BID 
3. LORazepam 0.5-1 mg PO Q6H:PRN Anxiety 
4. Ranitidine 150 mg PO BID 
5. Verapamil SR 120 mg PO Q24H 
6. Vitamin D 1000 UNIT PO DAILY 
7. Calcium Carbonate Suspension Dose is Unknown  PO TID 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  azelastine 0.15 % (205.5 mcg) nasal BID  
2.  Calcium Carbonate Suspension Dose is Unknown  PO TID 
5 mL (1 tsp) = 1250 mg Calcium Carbonate = 500 mg of Elemental 
Calcium  
3.  esomeprazole magnesium 40 mg oral BID  
4.  LORazepam 0.5-1 mg PO Q6H:PRN Anxiety  
5.  Multivitamins 1 TAB PO DAILY  
6.  Ranitidine 150 mg PO BID  
7.  Verapamil SR 120 mg PO Q24H  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Upper respiratory tract infection

SECONDARY DIAGNOSIS:
Hyponatremia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___ 
___. You came to the hospital because you were 
experiencing severe throat pain. You also had a runny nose, 
fever, and a cough. These symptoms are likely due to a viral 
infection and will get better within a few days.

There was an initial concern that you had a bad stomach reflux. 
Upon further clarification, you clarified that the pain is in 
your throat and not in the stomach. You do not need a scope to 
look at the esophagus and stomach at this time.

Please make sure to follow-up with your doctors as ___. 
Also, you should continue taking your acid reflux medications 30 
minutes before your meals twcice a day. You can take other the 
counter lozenges to relieve the throat pain.

We wish you all the best in health.

Your ___ team
 
Followup Instructions:
___